US08247429B2
N-[2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]propanamide
To a mixture of 2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine (69.7 mg, 0.324 mmol) and triethylamine (90.3 μL, 0.648 mmol) in tetrahydrofuran (3 mL) was added propionic anhydride (49.9 μL, 0.389 mmol) under ice-cooling, and the mixture was stirred for 15 min. The reaction solution was diluted with saturated aqueous sodium hydrogen carbonate solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (66.8 mg, yield 76%).

reactant | 2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine | 0.324 mmol, 69.7 mg | CC1=NN2C(C3=C(C=C2)CCC3CCN)=C1 | C13H17N3
reactant | triethylamine | 0.648 mmol, 90.3 μL | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.389 mmol, 49.9 μL | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-[2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethyl]propanamide | 66.8 mg, yield 76% | CC1=NN2C(C3=C(C=C2)CCC3CCNC(CC)=O)=C1 | C16H21N3O
